spice
* Netlist for the given schematic

VDD 7 0 DC VDD

R1_L 6 4 10k
R1_R 7 2 10k
R2 4 2 5k

M1 3 2 4 4 NMOS
M2 1 4 4 4 NMOS

* NMOS model (example parameters)
.model NMOS nmos (level=1 Vto=1 kp=2e-5 lambda=0.02)

.END